US06593330B2
2-[(5-Phenoxypentyl)oxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[(5-phenoxypentyl)oxy]pyrazine (2.06 g, 7.03 mmol; obtained according to the procedure of example 50, step 1, starting from 5-phenoxy-1-pentanol*), piperazine (1.88 g, 21.8 mmol) and K2CO3 (0.97 g, 7.03 mmol). The yield of the title compound was 1.15 g (48%) which was obtained as a white solid. Purity 100% (HPLC). MS m/z 343 (M+H)+. HRMS m/z calcd for C19H26N4O2 (M)+ 342.2056, found 342.2054.

reactant | 2-chloro-6-[(5-phenoxypentyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCCCCCOC1=CC=CC=C1 | C15H17ClN2O2
reactant | 5-phenoxy-1-pentanol | O(C1=CC=CC=C1)CCCCCO | C11H16O2
reactant | piperazine | 21.8 mmol, 1.88 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 7.03 mmol, 0.97 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-[(5-Phenoxypentyl)oxy]-6-(1-piperazinyl)pyrazine | O(C1=CC=CC=C1)CCCCCOC1=NC(=CN=C1)N1CCNCC1 | C19H26N4O2
